US04652584
To a round bottom flask under N2 was added 4.56 g (0.095 mole) of 50% NaH in oil. The NaH was washed twice with hexane, then 220 ml of DMF was added. Aliquots of 20.0 g (0.091 mole) of o-iodophenol were added over 15 minutes then 30.0 ml (0.450 mole) of epichlorohydrin was added and the solution heated to 70° C. After two hours the reaction was evaporated in vacuo, taken into CHCl3, washed with 10% NaOH, water, and brine and dried with MgSO4. The solvent was evaporated in vacuo to give 24.93 g of crude product. Distillation at 110°-114° C., 0.05 mm Hg gave 20.0 g (80.0%) of [(2-iodophenoxy)methyl]oxirane.

reactant | NaH | 0.095 mole, 4.56 g | [H-].[Na+]
reactant | o-iodophenol | 0.091 mole, 20.0 g | IC1=C(C=CC=C1)O | C6H5IO
reactant | epichlorohydrin | 0.450 mole, 30.0 ml | C(Cl)C1CO1 | C3H5ClO
product | [(2-iodophenoxy)methyl]oxirane | 20.0 g, 80.0% | IC1=C(OCC2OC2)C=CC=C1 | C9H9IO2
